US06967197B2
To a solution of N-(N-t-butoxycarbonyl-N-(2-methoxyethyl)aminosulfonyloxy)succinimide (200 mg) in dichloromethane (2 ml) was added trifluoroacetic acid (2 ml) under ice-water cooling and the mixture was stirred at 0° C. for 2 hours. The solution was evaporated in vacuo to give N-(2-methoxyethylaminosulfonyloxy)succinimide as a colorless amorphous powder (149 mg).

reactant | N-(N-t-butoxycarbonyl-N-(2-methoxyethyl)aminosulfonyloxy)succinimide | 200 mg | C(C)(C)(C)OC(=O)N(CCOC)S(=O)(=O)ON1C(CCC1=O)=O | C12H20N2O8S
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | N-(2-methoxyethylaminosulfonyloxy)succinimide | 149 mg | COCCNS(=O)(=O)ON1C(CCC1=O)=O | C7H12N2O6S
